US04061761
c. 4'-Methyl-3'-sulfamoyl-2-chloroacetophenone
10 g of 4'-methyl-3'-sulfamoyl-diazoacetophenone were reacted as prescribed in Example 66b) in diethylene glycol dimethyl ether with 37% HCl and worked up. Colorless crystals, melting point: 166° C (from isopropanol).

reactant | 4'-methyl-3'-sulfamoyl-diazoacetophenone | 10 g | CC1=C(C=C(C=C1)C(C=[N+]=[N-])=O)S(N)(=O)=O | C9H9N3O3S
reactant | HCl | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | diethylene glycol dimethyl ether | COCCOCCOC | C6H14O3
product | 4'-Methyl-3'-sulfamoyl-2-chloroacetophenone | CC1=C(C=C(C=C1)C(CCl)=O)S(N)(=O)=O | C9H10ClNO3S
